US07615568B2
C. 1-Boc-4-hydroxypiperidine
To a mixture of 4-hydroxypiperidine (60.69 g, 0.6 mol), 4-(dimethylamino)pyridine (74 mg, 0.6 mmol), CH2Cl2 (150 mL), and THF (150 mL) was added di-t-butyl dicarbonate [(Boc)2O] (130.95 g, 0.6 mol). After stirring for 6 hours, the reaction was heated to 35° C. for 16 hours. More (Boc)2O (13.09 g, 0.06 mol) in THF (20 mL) was added and the reaction was heated for 10 hours. After cooling, water and ether (1 L) were added and the mixture was stirred for 2 hours. The organic layer was partitioned, dried (MgSO4), and concentrated in vacuo. The residue was crystallized from ether to give the desired product as a white solid (105 g, 87%).

reactant | 4-hydroxypiperidine | 0.6 mol, 60.69 g | OC1CCNCC1 | C5H11NO
reactant | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
reactant | di-t-butyl dicarbonate | 0.6 mol, 130.95 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (Boc)2O | 0.06 mol, 13.09 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
catalyst | 4-(dimethylamino)pyridine | 0.6 mmol, 74 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | ether | 1 L | CCOCC | C4H10O
product | 1-Boc-4-hydroxypiperidine | 105 g, 87% | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
